US04061647
33 g of 3-bromo-4-chloro-5-sulfamoyl-benzoyl chloride were reacted in a manner analogous to the method described in Example 1 b) with diazomethane to yield the 3'-bromo-4'-chloro-5'-sulfamoyl-diazoacetophenone and worked up. M.p. 193° C (decomposition).

reactant | 3-bromo-4-chloro-5-sulfamoyl-benzoyl chloride | 33 g | BrC=1C=C(C(=O)Cl)C=C(C1Cl)S(N)(=O)=O | C7H4BrCl2NO3S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | 3'-bromo-4'-chloro-5'-sulfamoyl-diazoacetophenone | BrC=1C=C(C=C(C1Cl)S(N)(=O)=O)C(C=[N+]=[N-])=O | C8H5BrClN3O3S
